US08198453B2
The tert-butyl (2S,4R)-1-azido-7-chloro-4-(hydroxymethyl)heptan-2-ylcarbamate (1.59 g, 4.97 mmol, 1.0 equiv) was dissolved in 15 mL of DMF and the solution cooled to 0° C. A solution of NaNTMS2 (1.0 M, 14.9 mmol, 3.0 equiv) was added via syringe at such a rate that the internal reaction temperature remains below 5° C. After stirring for 2 h LC/MS analysis showed formation of the cyclised product. Dimethylsulfate (940 mg, 0.71 mL, 7.5 mmol, 1.5 equiv) was added and the reaction mixture stirred overnight with concomitant warming to ambient temperature. LC/MS analysis showed formation of the desired methylated carbamate. The reaction was quenched by addition of 10% K2CO3 solution (˜30 mL) and the mixture stirred for 0.5 h. The volatile materials were removed in vacuo and the residue partitioned between EtOAc/water. The layers were separated and the organic layer washed with brine, dried over Na2SO4, filtered and evaporated. The product was purified by flash chromatography on silica (40 g), eluting with 0-7% EtOAc in hexanes. This afforded 1.21 g (82% yield) of the desired tert-butyl (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(methyl)carbamate as a colorless liquid.

reactant | tert-butyl (2S,4R)-1-azido-7-chloro-4-(hydroxymethyl)heptan-2-ylcarbamate | 4.97 mmol, 1.59 g, 1.0 equiv | N(=[N+]=[N-])C[C@H](C[C@@H](CCCCl)CO)NC(OC(C)(C)C)=O | C13H25ClN4O3
reactant | Dimethylsulfate | 7.5 mmol, 0.71 mL, 940 mg, 1.5 equiv | COS(=O)(=O)OC | C2H6O4S
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | tert-butyl (S)-1-azido-3-((R)-tetrahydro-2H-pyran-3-yl)propan-2-yl(methyl)carbamate | 1.21 g, 82% yield | N(=[N+]=[N-])C[C@H](C[C@@H]1COCCC1)N(C(OC(C)(C)C)=O)C | C14H26N4O3
